US04123434
28.6 g (0.2 mol) of 1-formyl-2-methoxypiperidine and 0.3 mol of methanolic HCl were refluxed for 4 hours. At atmospheric pressure in a boiling range of from 30° to 50° C. a mixture of formic acid methyl ester and methanol, which could be re-used for the preparation of 1-formyl-piperidine, was distilled off. The distillation residue was added dropwise to a solution of 21.7 g of KOH (85% strength, 0.33 mol) in methanol and the whole was refluxed for 4 hours. Working up as described in Example 4 yielded 13.3 g (80.1% of the theory) of isotripiperidein melting at 87°-91° C.

reactant | 1-formyl-2-methoxypiperidine | 0.2 mol, 28.6 g | C(=O)N1C(CCCC1)OC | C7H13NO2
reactant | HCl | 0.3 mol | Cl | ClH
reactant | formic acid methyl ester | COC=O | C2H4O2
reactant | 1-formyl-piperidine | C(=O)N1CCCCC1 | C6H11NO
reactant | KOH | 0.33 mol, 21.7 g | [OH-].[K+]
solvent | methanol | CO | CH4O
product | isotripiperidein | C1CCN2C(C1)C3CCCNC3N4C2CCCC4 | C15H27N3
